US06458780B1
5-Methylimidazo[5,1-b]thiazole (6.90 g) was dissolved in 500 ml of dichloromethane. N-Iodosuccinimide (10.6 g) was added to the solution. The mixture was stirred at room temperature for 24 hr. N-Iodosuccinimide (1.06 g) was added thereto, followed by stirring for additional one hr. The reaction solution was washed with an aqueous sodium thiosulfate solution and brine in that order, dried over anhydrous magnesium sulfate, and then filtered. The solvent was removed by distillation under the reduced pressure. The residue was dissolved in 200 ml of dichloromethane and 100 ml of ethyl acetate. Silica gel (30 g) was added to the solution. The mixture was stirred. The silica gel was removed by filtration. The filtrate was washed with 200 ml of a mixed solution of dichloromethane:ethyl acetate=2:1. The filtrate was concentrated under the reduced pressure to give 13.08 g of 7-iodo-5-methylimidazo[5,1-b]thiazole.

reactant | 5-Methylimidazo[5,1-b]thiazole | 6.90 g | CC1=NC=C2SC=CN21 | C6H6N2S
reactant | N-Iodosuccinimide | 10.6 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
catalyst | N-Iodosuccinimide | 1.06 g | IN1C(CCC1=O)=O | C4H4INO2
product | 7-iodo-5-methylimidazo[5,1-b]thiazole | 13.08 g | IC=1N=C(N2C1SC=C2)C | C6H5IN2S
